### PR TITLE
[Merged by Bors] - refactor(Order/Minimal): change minimality to a predicate

### PR DESCRIPTION
**Pull request by apnelson1**
This PR changes the notion of minimality from being a set with an unbundled relation `r` (i.e. having type signature `minimals (r : α → α → Prop) (s : Set α) : Set α`) to being a predicate with a bundled order relation in a typeclass:  `Minimal [LE α] (P : α → Prop) : α → Prop`.
It also does the same for maximality. 

This is hopefully an improvement, for a few reasons : 
* ergonomic API with dot notation (eg `Minimal.eq_of_le`, `Minimal.not_lt`), 
* no need to specify a particular relation explicitly (no use of `minimals`/`maximals` for a relation that was not defeq to `LE.le` currently appears anywhere in mathlib),
* the potential in future to unify ad hoc notions of min/maximality appearing in various locations in mathlib (eg `zorn_preorder`, `Sylow.is_maximal'` to name a couple of random examples). 

Since this change removes the definitions `minimals` and `maximals` and all their API, it required a total overhaul of the contents of `Order.Minimal`, and necessarily required updating all uses of `maximals`/`minimals` elsewhere. There were not all too many of these; this PR is designed to be the smallest it could be while making this change. 

The changes required outside `Order.Minimal` were: 

- redefinition of `Ideal.minimalPrimes` in `RingTheory/Ideal/MinimalPrime` to use `Minimal` rather than `minimals`, with the necessary minor changes to proofs that used the old definition, including in `AlgebraicGeometry/PrimeSpectrum/Basic`.
- redefinition of `irreducibleComponents` in `Topology/Irreducible` to use `Minimal` rather than `minimals`, with necessary minor changes to proofs that used the old definition. 
- updating of the maximality used in the definition of a matroid in `Data/Matroid/Basic` from `maximals` to `Maximal`, with the necessary changes to everywhere in `Data/Matroid/*` that a matroid was specified using the definition directly. 
- the necessary changes to two lemmas in `Data/Finset/Lattice` that used `minimals`/`maximals` in the statements. 

I attempted to clean up the API in `Order.Minimal` to work smoothly with the new definitions, but numerous judgment calls were needed; I removed a few lemmas about `maximals/minimals` that were used nowhere, and seemed unlikely to be useful with the new definition.

Comment is welcome!

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Minimal.lean [hunk 1]
```diff
@@ -1,507 +1,645 @@
...
+
+/-- If `P` is up-closed, then maximal elements satisfying `P` are exactly the globally maximal
+elements satisfying `P`. -/
+theorem maximal_iff_isMax (hP : ∀ ⦃x y⦄, P y → y ≤ x → P x) : Maximal P x ↔ P x ∧ IsMax x :=
+  ⟨fun h ↦ ⟨h.prop, fun _ h' ↦ h.le_of_ge (hP h.prop h') h'⟩, fun h ↦ ⟨h.1, fun _ _  h' ↦ h.2 h'⟩⟩
+
+theorem Minimal.and_right (h : Minimal P x) (hQ : Q x) : Minimal (fun x ↦ (P x ∧ Q x)) x :=
+  ⟨⟨h.prop, hQ⟩, fun _ hy ↦ h.le_of_le hy.1⟩
+
+theorem Minimal.and_left (h : Minimal P x) (hQ : Q x) : Minimal (fun x ↦ (Q x ∧ P x)) x :=
```
Comment (YaelDillies) [inline Mathlib/Order/Minimal.lean:117]: Can you first show the more general
```suggestion
theorem Minimal.mono (h : Minimal P x) (h : Q ≤ P) (hQ : Q x) : Minimal Q x :=
```

File: Mathlib/Order/Minimal.lean [hunk 2]
```diff
@@ -1,507 +1,645 @@
...
+theorem Minimal.or (h : Minimal (fun x ↦ P x ∨ Q x) x) : Minimal P x ∨ Minimal Q x := by
+  obtain ⟨(h | h), hmin⟩ := h
+  · exact .inl ⟨h, fun y hy hyx ↦ hmin (Or.inl hy) hyx⟩
+  exact .inr ⟨h, fun y hy hyx ↦ hmin (Or.inr hy) hyx⟩
+
+theorem Maximal.or (h : Maximal (fun x ↦ P x ∨ Q x) x) : Maximal P x ∨ Maximal Q x :=
+  Minimal.or (α := αᵒᵈ) h
+
+theorem minimal_and_iff_right_of_imp (hPQ : ∀ ⦃x⦄, P x → Q x) :
+    Minimal (fun x ↦ P x ∧ Q x) x ↔ (Minimal P x) ∧ Q x := by
```
Comment (YaelDillies) [inline Mathlib/Order/Minimal.lean:141]: This lemma is really weird. Without even knowing what the definition of `Minimal` is, the LHS simplifies to
```suggestion
    Minimal P x ↔ (Minimal P x) ∧ Q x := by
```
Maybe just drop it?

File: Mathlib/Order/Minimal.lean [hunk 3]
```diff
@@ -1,507 +1,645 @@
...
+  ⟨⟨hQ, h.prop⟩, fun _ hy ↦ h.le_of_ge hy.2⟩
+
+@[simp] theorem minimal_eq_iff : Minimal (· = y) x ↔ x = y := by
+  simp (config := {contextual := true}) [Minimal]
+
+@[simp] theorem maximal_eq_iff : Maximal (· = y) x ↔ x = y := by
+  simp (config := {contextual := true}) [Maximal]
+
+theorem Minimal.or (h : Minimal (fun x ↦ P x ∨ Q x) x) : Minimal P x ∨ Minimal Q x := by
+  obtain ⟨(h | h), hmin⟩ := h
```
Comment (YaelDillies) [inline Mathlib/Order/Minimal.lean:133]: Unnecessary brackets
```suggestion
  obtain ⟨h | h, hmin⟩ := h
```

File: Mathlib/Order/Minimal.lean [hunk 4]
```diff
@@ -1,507 +1,645 @@
...
+@[simp] theorem maximal_ge_iff : Maximal (y ≤ ·) x ↔ y ≤ x ∧ IsMax x :=
+  minimal_le_iff (α := αᵒᵈ)
+
+@[simp] theorem minimal_lt_iff : Minimal (· < y) x ↔ x < y ∧ IsMin x :=
+  minimal_iff_isMin (fun _ _ h h' ↦ h'.trans_lt h)
+
+@[simp] theorem maximal_gt_iff : Maximal (y < ·) x ↔ y < x ∧ IsMax x :=
+  minimal_lt_iff (α := αᵒᵈ)
+
+theorem not_minimal_iff (hx : P x) : ¬ Minimal P x ↔ ∃ y, y < x ∧ P y := by
```
Comment (YaelDillies) [inline Mathlib/Order/Minimal.lean:193]: Can you make `not_minimal_iff` be the (currently missing) preorder version, and `not_minimal_iff_exists_lt` be this lemma?

File: Mathlib/Order/Minimal.lean [hunk 5]
```diff
@@ -1,507 +1,645 @@
...
+  rw [← not_iff_not, not_not, not_exists]
+  simp only [Minimal, hx, true_and, lt_iff_le_not_le, not_and, and_imp, not_imp_not]
+  tauto
+
+theorem not_maximal_iff (hx : P x) : ¬ Maximal P x ↔ ∃ y, x < y ∧ P y :=
+  not_minimal_iff (α := αᵒᵈ) hx
+
+theorem exists_of_not_minimal (hx : P x) (h : ¬ Minimal P x) : ∃ y, y < x ∧ P y :=
+  (not_minimal_iff hx).1 h
```
Comment (YaelDillies) [inline Mathlib/Order/Minimal.lean:202]:
```suggestion
alias ⟨exists_of_not_minimal, _⟩ :=not_minimal_iff
```

File: Mathlib/Order/Minimal.lean [hunk 6]
```diff
@@ -1,507 +1,645 @@
...
+theorem maximal_iff_eq (hy : P y) (hP : ∀ ⦃x⦄, P x → x ≤ y) : Maximal P x ↔ x = y :=
+  minimal_iff_eq (α := αᵒᵈ) hy hP
+
+@[simp] theorem minimal_ge_iff : Minimal (y ≤ ·) x ↔ x = y :=
+  minimal_iff_eq rfl.le fun _ ↦ id
+
+@[simp] theorem maximal_le_iff : Maximal (· ≤ y) x ↔ x = y :=
+  maximal_iff_eq rfl.le fun _ ↦ id
+
+theorem minimal_iff_minimal_of_imp_of_forall (hPQ : ∀ ⦃x⦄, Q x → P x)
```
Comment (YaelDillies) [inline Mathlib/Order/Minimal.lean:253]:
```suggestion
theorem minimal_congr_of_imp_of_forall (hPQ : ∀ ⦃x⦄, Q x → P x)
```
maybe? I'm not too attached

File: Mathlib/Order/Minimal.lean [hunk 7]
```diff
@@ -1,507 +1,645 @@
...
+  minimal_iff_minimal_of_imp_of_forall (α := αᵒᵈ) hPQ h
+
+end PartialOrder
+
+section Subset
+
+variable {P : Set α → Prop} {s t : Set α}
+
+theorem Minimal.eq_of_superset (h : Minimal P s) (ht : P t) (hts : t ⊆ s) : s = t :=
+  h.eq_of_ge ht hts
```
Comment (YaelDillies) [inline Mathlib/Order/Minimal.lean:273]: It's annoying that those lemmas don't apply to finset

Comment (apnelson1) [reply Mathlib/Order/Minimal.lean:273]: I think this is out of scope - nothing about Finset was in the original file.

File: Mathlib/Order/Minimal.lean (hunk 6 above)
Comment (apnelson1) [reply Mathlib/Order/Minimal.lean:253]: I think I prefer this way.

File: Mathlib/Order/Minimal.lean (hunk 2 above)
Comment (apnelson1) [reply Mathlib/Order/Minimal.lean:141]: In the abstract, it looks weird, but the intention here is that the lemma provides a motive for rewriting that would otherwise be annoying to write explicitly, say if you have an goal of the form `_ ∧ Q x ↔ Minimal (fun x ↦ P x ∧ Q x) x` and you want to reduce it to `Q x → ((Minimal P x) ↔ _)`, where `Q` and `P` have long statements.

Comment (apnelson1) [reply Mathlib/Order/Minimal.lean:141]: (note that `rw [and_iff_left_of_imp]` wouldn't work in that example because of the binder, and `simp_rw [and_iff_left_of_imp _]` would require an annoying proof term if `P` and `Q` are complicated. )

File: Mathlib/Order/Minimal.lean (hunk 7 above)
Comment (apnelson1) [reply Mathlib/Order/Minimal.lean:289]: (I've added a TODO)

File: Mathlib/Order/Minimal.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Order/Minimal.lean:161]: Is `R x ∧ Q x ↔ Minimal (fun x ↦ P x ∧ Q x)` really such a common goal?

Comment (apnelson1) [reply Mathlib/Order/Minimal.lean:161]: I'm not making a point purely on the basis of that kind of goal, but that kind of thing has certainly come up for me.

Comment (YaelDillies) [reply Mathlib/Order/Minimal.lean:161]: I would like to see some concrete examples. I suspect there's a better(/more general?) lemma to be had

Comment (apnelson1) [reply Mathlib/Order/Minimal.lean:161]: I think I've answered your question (it provides a motive for a rewrite), and I don't think it makes sense to ask for concrete examples when this is by definition new API. 

If you have an abstract lemma in mind, suggest it!

Comment (YaelDillies) [reply Mathlib/Order/Minimal.lean:161]: You are free to provide non-minimal concrete examples deep down in one of your repos if that makes it easier for you!

Comment (apnelson1) [reply Mathlib/Order/Minimal.lean:161]: Any decision to remove or keep these lemmas is marginally impactful at best, and given that I earnestly anticipate them to be somewhat useful at least in my case, I'd rather just move forward with the PR than continue this discussion.

File: Mathlib/Data/Finset/Lattice.lean [hunk 8]
```diff
@@ -1814,19 +1814,17 @@ section minimal
...
+    Maximal P s ↔ P s ∧ ∀ x ∉ s, ¬ P (insert x s) := by
+  simp only [Maximal, and_congr_right_iff]
+  exact fun _ ↦ ⟨fun h x hxs hx ↦ hxs <| h hx (subset_insert _ _) (mem_insert_self x s),
+    fun h t ht hst x hxt ↦ by_contra fun hxs ↦ h x hxs (hP ht (insert_subset hxt hst))⟩
+
+theorem minimal_iff_forall_diff_singleton (hP : ∀ ⦃s t⦄, P t → t ⊆ s → P s) :
+    Minimal P s ↔ P s ∧ ∀ x ∈ s, ¬ P (s.erase x) :=
+  ⟨fun h ↦ ⟨h.prop, fun x hxs hx ↦ by simpa using h.le_of_le hx (erase_subset _ _) hxs⟩,
+    fun h ↦ ⟨h.1, fun t ht hts x hxs ↦ by_contra fun hxt ↦
+      h.2 x hxs <| hP ht (subset_erase.2 ⟨hts, hxt⟩)⟩⟩
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Lattice.lean:1827]:
```suggestion
    Minimal P s ↔ P s ∧ ∀ x ∈ s, ¬ P (s.erase x) where
  mp h := ⟨h.prop, fun x hxs hx ↦ by simpa using h.le_of_le hx (erase_subset _ _) hxs⟩
  mpr h := ⟨h.1, fun t ht hts x hxs ↦ by_contra fun hxt ↦
    h.2 x hxs <| hP ht (subset_erase.2 ⟨hts, hxt⟩)⟩
```

File: Mathlib/Data/Matroid/Basic.lean [hunk 9]
```diff
@@ -458,9 +458,9 @@ theorem eq_of_base_iff_base_forall {M₁ M₂ : Matroid α} (hE : M₁.E = M₂.
       fun hB ↦ (h <| hB.subset_ground.trans_eq hE.symm).2 hB⟩
   ext <;> simp [hE, M₁.indep_iff', M₂.indep_iff', h']
 
-theorem base_compl_iff_mem_maximals_disjoint_base (hB : B ⊆ M.E := by aesop_mat) :
-    M.Base (M.E \ B) ↔ B ∈ maximals (· ⊆ ·) {I | I ⊆ M.E ∧ ∃ B, M.Base B ∧ Disjoint I B} := by
-  simp_rw [mem_maximals_setOf_iff, and_iff_right hB, and_imp, forall_exists_index]
+theorem base_compl_iff_maximal_disjoint_base (hB : B ⊆ M.E := by aesop_mat) :
+    M.Base (M.E \ B) ↔ Maximal (fun I ↦ I ⊆ M.E ∧ ∃ B, M.Base B ∧ Disjoint I B) B := by
+  simp_rw [maximal_iff, and_iff_right hB,  and_imp, forall_exists_index]
```
Comment (YaelDillies) [inline Mathlib/Data/Matroid/Basic.lean:463]:
```suggestion
  simp_rw [maximal_iff, and_iff_right hB, and_imp, forall_exists_index]
```

File: Mathlib/Data/Matroid/Basic.lean [hunk 10]
```diff
@@ -566,16 +566,15 @@ theorem Base.eq_of_subset_indep (hB : M.Base B) (hI : M.Indep I) (hBI : B ⊆ I)
   let ⟨B', hB', hB'I⟩ := hI.exists_base_superset
   hBI.antisymm (by rwa [hB.eq_of_subset_base hB' (hBI.trans hB'I)])
 
-theorem base_iff_maximal_indep : M.Base B ↔ M.Indep B ∧ ∀ I, M.Indep I → B ⊆ I → B = I := by
-  refine ⟨fun h ↦ ⟨h.indep, fun _ ↦ h.eq_of_subset_indep ⟩, fun ⟨h, h'⟩ ↦ ?_⟩
+theorem base_iff_maximal_indep : M.Base B ↔ Maximal M.Indep B := by
+  rw [maximal_subset_iff]
+  refine ⟨fun h ↦ ⟨h.indep, fun _ ↦ h.eq_of_subset_indep⟩, fun ⟨h, h'⟩ ↦ ?_⟩
```
Comment (YaelDillies) [inline Mathlib/Data/Matroid/Basic.lean:571]: When doing a refactor, adding unnecessary changes is *not* helping. I understand that your PR is motivated by applications in matroid theory, but I don't need to see the changes in an already big diff to be convinced.

You have already added them here, so I won't ask you to revert, but this is typically the kind of changes that can/should be left to a separate PR.

File: Mathlib/Data/Matroid/Basic.lean [hunk 11]
```diff
@@ -837,10 +829,8 @@ theorem Basis.not_basis_of_ssubset (hI : M.Basis I X) (hJI : J ⊂ I) : ¬ M.Bas
 
 theorem Indep.subset_basis_of_subset (hI : M.Indep I) (hIX : I ⊆ X) (hX : X ⊆ M.E := by aesop_mat) :
     ∃ J, M.Basis J X ∧ I ⊆ J := by
-  obtain ⟨J, ⟨(hJ : M.Indep J),hIJ,hJX⟩, hJmax⟩ := M.maximality X hX I hI hIX
-  use J
-  rw [and_iff_left hIJ, basis_iff, and_iff_right hJ, and_iff_right hJX]
-  exact fun K hK hJK hKX ↦ hJK.antisymm (hJmax ⟨hK, hIJ.trans hJK, hKX⟩ hJK)
+  obtain ⟨J, hJ, hJmax⟩ := M.maximality X hX I hI hIX
+  exact ⟨J, ⟨⟨hJmax, hX⟩, hJ⟩⟩
```
Comment (YaelDillies) [inline Mathlib/Data/Matroid/Basic.lean:833]:
```suggestion
  exact ⟨J, ⟨hJmax, hX⟩, hJ⟩
```

File: Mathlib/Data/Matroid/Dual.lean [hunk 12]
```diff
@@ -67,50 +67,46 @@ section dual
...
-    subst this
-
-    refine subset_diff.mpr ⟨hJX, by_contra (fun hne ↦ ?_)⟩
-    obtain ⟨e, heJ, heB'⟩ := not_disjoint_iff.mp hne
+    by_contra hdj'
+    obtain ⟨e, heJ, heB'⟩ := not_disjoint_iff.mp hdj'
     obtain (heB'' | ⟨-,heX⟩ ) := hB₁I heB'
     · exact hdj.ne_of_mem heJ heB'' rfl
     exact heX (hJX heJ)
+
```
Comment (YaelDillies) [inline Mathlib/Data/Matroid/Dual.lean:109]:
```suggestion
```

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 13]
```diff
@@ -97,8 +97,8 @@ structure IndepMatroid (α : Type*) where
   (Indep : Set α → Prop)
   (indep_empty : Indep ∅)
   (indep_subset : ∀ ⦃I J⦄, Indep J → I ⊆ J → Indep I)
-  (indep_aug : ∀⦃I B⦄, Indep I → I ∉ maximals (· ⊆ ·) {I | Indep I} →
-      B ∈ maximals (· ⊆ ·) {I | Indep I} → ∃ x ∈ B \ I, Indep (insert x I))
+  (indep_aug : ∀⦃I B⦄, Indep I → ¬ Maximal Indep I →
```
Comment (YaelDillies) [inline Mathlib/Data/Matroid/IndepAxioms.lean:100]:
```suggestion
  (indep_aug : ∀ ⦃I B⦄, Indep I → ¬ Maximal Indep I →
```

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 14]
```diff
@@ -167,23 +160,19 @@ namespace IndepMatroid
...
-    simp only [mem_maximals_iff, mem_setOf_eq, not_and, not_forall, exists_prop,
-      exists_and_left, iff_true_intro hI, true_imp_iff] at hImax hBmax
-    obtain ⟨I', hI', hII', hne⟩ := hImax
-    obtain ⟨e, heI', heI⟩ := exists_of_ssubset (hII'.ssubset_of_ne hne)
-    have hins : Indep (insert e I) := indep_subset hI' (insert_subset heI' hII')
-    obtain (heB | heB) := em (e ∈ B)
+    obtain ⟨e, heI, hins⟩ := exists_insert_of_not_maximal indep_subset hI hImax
+    by_cases heB : e ∈ B
     · exact ⟨e, ⟨heB, heI⟩, hins⟩
+
```
Comment (YaelDillies) [inline Mathlib/Data/Matroid/IndepAxioms.lean:166]:
```suggestion
```
(I assume those are typos? since a refactor is not really the place to orthogonally prettify proofs)

File: Mathlib/RingTheory/Ideal/MinimalPrime.lean [hunk 15]
```diff
@@ -36,16 +36,16 @@ variable {R S : Type*} [CommSemiring R] [CommSemiring S] (I J : Ideal R)
 
 /-- `I.minimalPrimes` is the set of ideals that are minimal primes over `I`. -/
 protected def Ideal.minimalPrimes : Set (Ideal R) :=
-  minimals (· ≤ ·) { p | p.IsPrime ∧ I ≤ p }
+  {p | Minimal (fun p ↦ p.IsPrime ∧ I ≤ p) p}
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Ideal/MinimalPrime.lean:39]: There are two `p` in context
```suggestion
  {p | Minimal (fun q ↦ q.IsPrime ∧ I ≤ q) p}
```

File: Mathlib/Order/Minimal.lean
Comment (YaelDillies) [inline Mathlib/Order/Minimal.lean:1]: Sorry, but this diff is unreviewable as is 😢. I cannot assert whether the former API was preserved. Can you please split this PR into
1. A PR solely adding new API and reproving the existing API using it. This demonstrates that the new API is at least as powerful as the old one.
2. A PR replacing all uses of the old API by the new API
3. A PR deprecating the old API

Possibly, PRs 2 and 3 can be made into a single one, but I insist that PR 1 should be separate.

Comment (apnelson1) [reply Mathlib/Order/Minimal.lean:1]: You are departing in tone from what one would normally consider a 'review'. But I will make a PR of the form (1.) as you suggest. 

Also, for the benefit of anyone doing a refactor, I think that guidelines like your comment should be available in advance somewhere easily accessible to anyone making a PR. I think that in this case, such a small refactor could easily be done in one PR without adverse consequences; learning that things should be done a certain way as a matter of policy shouldn't be so ad hoc.

Comment (YaelDillies) [reply Mathlib/Order/Minimal.lean:1]: They certainly do not *have* to be this way, but my experience is that you get much better feedback (both from Lean and from the reviewers) when you do things the way I explain above. Indeed, I basically came up with that method of proceeding and I don't think anyone but me has seriously used it in mathlib refactors yet.

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean [hunk 16]
```diff
@@ -623,8 +624,10 @@ lemma vanishingIdeal_irreducibleComponents :
     vanishingIdeal '' (irreducibleComponents <| PrimeSpectrum R) =
     minimalPrimes R := by
   rw [irreducibleComponents_eq_maximals_closed, minimalPrimes_eq_minimals,
-    ← minimals_swap, ← vanishingIdeal_isClosed_isIrreducible, image_minimals_of_rel_iff_rel]
-  exact fun s t hs _ ↦ vanishingIdeal_anti_mono_iff hs.1
+    image_antitone_setOf_maximal (fun s t hs _ ↦ (vanishingIdeal_anti_mono_iff hs.1).symm),
+    show Ideal.IsPrime = fun x ↦ x ∈ {x | Ideal.IsPrime x} from rfl,
```
Comment (j-loreaux) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean:628]: This `show` is not pretty. You could do: `← funext (@Set.mem_setOf_eq _ · Ideal.IsPrime)`, but I think it would be better to add the `rfl` lemma:
```lean
import Mathlib.Data.Set.Basic

example {α : Type u} {p : α → Prop} :
    (fun a ↦ a ∈ {x : α | p x}) = p :=
  rfl
```

File: Mathlib/Data/Matroid/Dual.lean [hunk 17]
```diff
@@ -67,50 +67,46 @@ section dual
...
+    obtain rfl : B₁ = B' := by
       refine hB₁.eq_of_subset_indep hB'.indep (fun e he ↦ ?_)
       refine (hB₁I he).elim (fun heB'' ↦ ?_) (fun h ↦ h.1)
       refine (em (e ∈ X)).elim (fun heX ↦ hI' (Or.inl ⟨heB'', heX⟩)) (fun heX ↦ hIB' ?_)
-      refine hI.mem_of_insert_indep ⟨hB₁.subset_ground he, heX⟩
-        (hB₁.indep.subset (insert_subset he ?_))
-      refine (subset_union_of_subset_right (subset_diff.mpr ⟨hIB',?_⟩) _).trans hI'B₁
-      exact disjoint_of_subset_left hI.subset disjoint_sdiff_left
+      refine hI.mem_of_insert_indep ⟨hB₁.subset_ground he, heX⟩ ?_
+      exact hB₁.indep.subset (insert_subset he (subset_union_right.trans hI'B₁))
```
Comment (j-loreaux) [inline Mathlib/Data/Matroid/Dual.lean:103]: why are there random blank lines floating around here? And why are some added?

**Review by j-loreaux — COMMENTED** [review]
I've left a few minor comments, but overall, I think this is okay. That said, I have not thoroughly vetted the new API in comparison to the old one. My feeling is that it seems to work with what we have (in that nothing breaks), and that in the worst case, we can add some things later that are missing. On the other hand, this is not my area of the library, so I won't merge at this time.

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean (hunk 16 above)
Comment (apnelson1) [reply Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean]: I opted for the former, because it looks to me like `mem_setOf_eq` should really be phrased as the lemma you suggest in the first place, and it wouldn't be the right place here to make that change.

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 18]
```diff
@@ -273,20 +263,22 @@ theorem _root_.Matroid.existsMaximalSubsetProperty_of_bdd {P : Set α → Prop}
...
     rwa [ncard_def, heq, ENat.toNat_coe]
-    -- have := (hP Y hY).2
-  obtain ⟨Y, hY, hY'⟩ := Finite.exists_maximal_wrt' ncard _ hfin ⟨I, hI, rfl.subset, hIX⟩
-  refine ⟨Y, hY, fun J ⟨hJ, hIJ, hJX⟩ (hYJ : Y ⊆ J) ↦ (?_ : J ⊆ Y)⟩
-  have hJfin := finite_of_encard_le_coe (hP J hJ)
-  refine (eq_of_subset_of_ncard_le hYJ ?_ hJfin).symm.subset
-  rw [hY' J ⟨hJ, hIJ, hJX⟩ (ncard_le_ncard hYJ hJfin)]
+  obtain ⟨Y, ⟨hY, hIY, hYX⟩, hY'⟩ :=
+    Finite.exists_maximal_wrt' ncard _ hfin ⟨I, hI, rfl.subset, hIX⟩
+
```
[the remark this answers is not in the document]
Comment (apnelson1) [reply Mathlib/Data/Matroid/IndepAxioms.lean:266]: I've tried to revert to the way things were. I tend to include blank lines to separate ideas in proofs, and when I was rewriting to work with the new API, I didn't faithfully preserve where the blanks were.

**Comment by apnelson1** [comment]
> I've left a few minor comments, but overall, I think this is okay. That said, I have not thoroughly vetted the new API in comparison to the old one. My feeling is that it seems to work with what we have (in that nothing breaks), and that in the worst case, we can add some things later that are missing. On the other hand, this is not my area of the library, so I won't merge at this time.

Thanks for looking at this - I am sorry reviewing wasn't easier!

File: Mathlib/Order/Minimal.lean [hunk 19]
```diff
@@ -1,472 +1,661 @@
...
 
-* `maximals r s`: Maximal elements of `s` with respect to `r`.
-* `minimals r s`: Minimal elements of `s` with respect to `r`.
+* `Minimal P x`: `x` is minimal satisfying `P`.
+* `Maximal P x`: `x` is maximal satisfying `P`.
+
+## Implementation Details
+
+This file underwent a refactor from a version where minimality and maximality were defined using
+sets rather than predicates, and with an unbundled order relation rather than a `LE` instance.
```
Comment (b-mehta) [inline Mathlib/Order/Minimal.lean:24]: This is the main change that worries me here (all the others look great), in particular this forbids us from (conveniently) talking about minimality with respect to a relation that isn't the default ordering on the type... For the moment, perhaps it's enough to add a TODO saying that this case might need further consideration?

File: Mathlib/Data/Matroid/IndepAxioms.lean (hunk 18 above)
[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Data/Matroid/IndepAxioms.lean:266]: @apnelson1 if you feel there is a separate enough flow ‌/ idea in the proof which is not otherwise captured by the structure of the proof, that's a sign that you should add a *comment* instead of a blank line.

File: Mathlib/Order/Minimal.lean (hunk 19 above)
Comment (apnelson1) [reply Mathlib/Order/Minimal.lean:24]: Thanks - I've added this TODO to the docstring.

**Comment by b-mehta** [comment]
bors merge
